US06118001
1-tert-Butyloxycarbonyl-4-bromopiperidine
A solution of di-tert-butyldicarbonate (4.4 g) in dichloromethane was added to a suspension of 4-bromopiperidine hydrobromide (5 g) in dichloromethane (100 ml) at 0° C., followed by triethylamine (5.1 g). The solution was stirred for 3 h at room temperature, then washed with water, 0.5 M HCl and saturated sodium bicarbonate, dried and evaporated to give the title compound as colourless oil (5.3 g, 99%).

reactant | di-tert-butyldicarbonate | 4.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-bromopiperidine hydrobromide | 5 g | Br.BrC1CCNCC1
reactant | triethylamine | 5.1 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-tert-Butyloxycarbonyl-4-bromopiperidine | 5.3 g, 99% | C(C)(C)(C)OC(=O)N1CCC(CC1)Br | C10H18BrNO2
